US07417047B2
Preparation of 2-amino-5-(1-ethyl-1H-pyrrol-3-yl)-3-methyl-5-(3-pyrimidin-5-ylphenyl)-3,5-dihydro-4H-imidazol-4-one
To a solution of 2-amino-5-(3-bromophenyl)-5-(1-ethyl-1H-pyrrol-3-yl)-3-methyl-3,5-dihydro-4H-imidazol-4-one (80 mg, 0.22 mmol) in DME (3 mL) is added pyrimidin-5-ylboronic acid (57 mg, 0.44 mmol), tetrakis(triphenylphosphine)palladium (25 mg, 0.022 mmo) and a solution sodium carbonate (93 mg, 0.88 mmol) in H2O (0.5 mL) at room temperature. The reaction mixture is refluxed for 1 h and cooled. After evaporation of the solvent, the crude material is purified by chromatography (silica gel, EtOAc/2M ethanolic NH3: 92/8) to give the title compound (60 mg, 75%) as a solid. mp: 100-102° C.; MS(+) ES: 361 (M+H)+.

reactant | 2-amino-5-(3-bromophenyl)-5-(1-ethyl-1H-pyrrol-3-yl)-3-methyl-3,5-dihydro-4H-imidazol-4-one | 0.22 mmol, 80 mg | NC1=NC(C(N1C)=O)(C1=CN(C=C1)CC)C1=CC(=CC=C1)Br | C16H17BrN4O
reactant | pyrimidin-5-ylboronic acid | 0.44 mmol, 57 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | sodium carbonate | 0.88 mmol, 93 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 3 mL | COCCOC | C4H10O2
solvent | H2O | 0.5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-amino-5-(1-ethyl-1H-pyrrol-3-yl)-3-methyl-5-(3-pyrimidin-5-ylphenyl)-3,5-dihydro-4H-imidazol-4-one | 60 mg, 75% | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)C=1C=NC=NC1)C1=CN(C=C1)CC | C20H20N6O
